US05616537
Preparation of Methyl 5-(4,6-Dimethoxypyrimidin-2-yl)oxy-2-ethoxy-2,3-dihydrobenzofuran-4-carboxylate (Compound No. 507)
A mixture comprising 1.0 g of methyl 2-ethoxy-5-hydroxy-2,3-dihydrobenzofuran-4-carboxylate, 1.0 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 0.78 g of potassium carbonate in 30 ml of N,N-dimethylformamide, was heated and stirred at 100° C. for two hours. The mixture was returned to room temperature, then poured into water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate. It was concentrated under reduced pressure, and the oily substance thereby obtained was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to obtain 1.5 g (yield: 95%) of the desired compound.

reactant | methyl 2-ethoxy-5-hydroxy-2,3-dihydrobenzofuran-4-carboxylate | 1.0 g | C(C)OC1OC=2C(C1)=C(C(=CC2)O)C(=O)OC | C12H14O5
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 1.0 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Methyl 5-(4,6-Dimethoxypyrimidin-2-yl)oxy-2-ethoxy-2,3-dihydrobenzofuran-4-carboxylate | 1.5 g, yield: 95% | COC1=NC(=NC(=C1)OC)OC1=CC=C2C(CC(O2)OCC)=C1C(=O)OC | C18H20N2O7
